US04582833
2-(1-Piperazinyl)-7-(4-pyridyl)[1,2,4]triazolo-[1,5-a]pyrimidine
To an 8.0 g amount of 4-[7-(4-pyridyl)[1,2,4]triazolo[1,5-a]pyrimidin-2-yl]-1-piperazine carboxylic acid benzyl ester in 125 ml round bottom flask was added 25.0 ml of hydrobromic acid (31% in glacial acetic acid). The mixture was allowed to react for 20 minutes then was cooled. Ether was added to separate the precipitate. The precipitate was collected by filtration and dissolved in water. The solution was adjusted to a pH greater than pH 7 with 5N sodium hydroxide and extracted with three equal portions of chloroform. The extracts were combined and evaporated in vacuo to a syrup. The syrup was dissolved in hot ethanol and hexane was added to crystallize the crude product which was collected and washed with hexane. The crude product was recrystallized from 25 ml of cold ethanol, filtered, washed with ethanol/hexane then hexane. The material was dried in vacuo at 60° C. and gave 4.2 g of the product of the example as yellow crystals, mp 147°- 149° C.

reactant | 4-[7-(4-pyridyl)[1,2,4]triazolo[1,5-a]pyrimidin-2-yl]-1-piperazine carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NN2C(N=CC=C2C2=CC=NC=C2)=N1 | C22H21N7O2
reactant | hydrobromic acid | 25.0 ml | Br | BrH
solvent | Ether | CCOCC | C4H10O
product | 2-(1-Piperazinyl)-7-(4-pyridyl)[1,2,4]triazolo-[1,5-a]pyrimidine | 4.2 g | N1(CCNCC1)C1=NN2C(N=CC=C2C2=CC=NC=C2)=N1 | C14H15N7
